US07425568B2
2-(2,3-Difluorophenyl)-6-hydroxychroman-4-one was prepared as described for 2-(3-fluorophenyl)-6-hydroxychroman-4-one in Example 9(a) starting from 3.0 g of 2′,5′-dihydroxyacetophenone and 2.6 ml of 2,3-difluorobenzaldehyde. 1H NMR (400 MHz, d6-DMSO) δ: 9.51 (s, 1H), 7.53-7.46 (m, 2H), 7.31 (m, 1H), 7.14 (d, 1H, J 3.0 Hz), 7.05 (dd, 1H, 3 8.8, 3.0 Hz), 6.96 (d, 1H, J 8.8 Hz), 5.82 (dd, 1H, J 13.4, 2.8 Hz), 3.26 (dd, 1H, J −16.9, 13.4 Hz), 2.79 (dd, 1H, J −16.9, 2.8 Hz).

reactant | 2-(3-fluorophenyl)-6-hydroxychroman-4-one | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11FO3
reactant | 2′,5′-dihydroxyacetophenone | 3.0 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 2,3-difluorobenzaldehyde | 2.6 ml | FC1=C(C=O)C=CC=C1F | C7H4F2O
product | 2-(2,3-Difluorophenyl)-6-hydroxychroman-4-one | FC1=C(C=CC=C1F)C1OC2=CC=C(C=C2C(C1)=O)O | C15H10F2O3
